US07301032B2
370 mg of 3-methylthio-5-cyclohexyl-1,2,4-thiadiazole was dissolved in 8 ml of chloroform, 1.12 g of 3-chloroperoxybenzoic acid (content>65%) was added thereto, and the reaction mixture was stirred for 7 hours under ice-cooling. Then, the reaction mixture was added to saturated sodium hydrogensulfite aqueous solution, and separated. The organic layer was washed with sodium hydrogencarbonate aqueous solution, dried over anhydrous sodium sulfate, concentrated to give 444 mg of 3-methylsulfonyl-5-cyclohexyl-1,2,4-thiadiazole.

reactant | 3-methylthio-5-cyclohexyl-1,2,4-thiadiazole | 370 mg | CSC1=NSC(=N1)C1CCCCC1 | C9H14N2S2
reactant | 3-chloroperoxybenzoic acid | 1.12 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methylsulfonyl-5-cyclohexyl-1,2,4-thiadiazole | 444 mg | CS(=O)(=O)C1=NSC(=N1)C1CCCCC1 | C9H14N2O2S2
